US04294843
2-Dimethylaminobenzenethiol (4.6 g; 3×10-2 mol) was added dropwise to a solution of sodium (0.69 g; 3×10-2 mol) in absolute ethanol (50 ml) at 25°. Immediately chloroacetamidoxime was added. Stirring at 25° was continued for 2 hours, sodium chloride was removed by filtration and the filtrate evaporated under reduced pressure. Re-crystallisation of the residue from isopropanol gave 2-(2-dimethylaminophenylthio)acetamidoxime, m.p. 133°.

reactant | 2-Dimethylaminobenzenethiol | 3×10-2 mol, 4.6 g | CN(C1=C(C=CC=C1)S)C | C8H11NS
reactant | sodium | 3×10-2 mol, 0.69 g | [Na] | Na
reactant | chloroacetamidoxime | ClCC(N)=NO | C2H5ClN2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(2-dimethylaminophenylthio)acetamidoxime | CN(C1=C(C=CC=C1)SCC(N)=NO)C | C10H15N3OS
